US05399702
A mixture of 0.418 g of (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid and 0.1214 g of tris-(hydroxymethyl)-amino-methane were solubilized in 10 ml of ethyl alcohol with warming on a steam bath until all the solids had solubilized. After cooling the reaction mixture was condensed in vacuo at 40° C. to constant weight to yield E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid tris-(hydroxymethyl)-amino-methane salt as a white solid.

reactant | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 0.418 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C24H22N2O3S
reactant | tris-(hydroxymethyl)-amino-methane | 0.1214 g | OCC(N)(CO)CO | C4H11NO3
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid tris-(hydroxymethyl)-amino-methane salt | OCC(N)(CO)CO.C1(CCC1)C=1N=C(SC1)C=CC=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | InChI=1S/C24H22N2O3S.C4H11NO3/c27-22(14-18-6-1-2-10-20(18)24(28)29)25-19-9-3-5-16(13-19)11-12-23-26-21(15-30-23)17-7-4-8-17;5-4(1-6,2-7)3-8/h1-3,5-6,9-13,15,17H,4,7-8,14H2,(H,25,27)(H,28,29);6-8H,1-3,5H2
